US08124299B2
1-ethynyl-4-(4-methylphenylethynyl)benzene.
Into a 100 ml round bottom flask was placed a mixture of 1.43 g (0.005 mole) of 1-(trimethylsilylethynyl)-4-(4-methylphenylethynyl)benzene, 1.37 g (0.01 mole) potassium carbonate, 20 ml of methanol and 20 ml of methylene chloride. The mixture was stirred at room temperature under nitrogen overnight. The dark brown suspension was filtered and the filtrate was washed twice with water (20 ml each). The aqueous layers were combined and extracted twice with methylene chloride (10 ml each). The methylene chloride layers were combined and dried over anhydrous MgSO4, filtered and concentrated. 0.7 g (73.1% yield) of brownish yellow solid was obtained. 1HNMR: 2.40 ppm (2,3H); 3.19 ppm (s, 1H); 7.15-7.18 ppm (d, 2H); 7.43-7.46 ppm (d, 2H); 7.49 (s, 4H). The NMR indicated that there were some by-products present. It was used for the next step without further purification.

reactant | 1-(trimethylsilylethynyl)-4-(4-methylphenylethynyl)benzene | 0.005 mole, 1.43 g | C[Si](C)(C)C#CC1=CC=C(C=C1)C#CC1=CC=C(C=C1)C | C20H20Si
reactant | potassium carbonate | 0.01 mole, 1.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 20 ml | CO | CH4O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-ethynyl-4-(4-methylphenylethynyl)benzene | 0.7 g, 73.1% yield | C(#C)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C | C17H12
